US05493012
3-(5-methylbenzoyl)propionic acid (Compound (2.2)
This compound was prepared by the method of Raval et al., J. Univ. Bombary, 7, Pt. 3, 184 (1983); CA 33, 3779 (1989). p-Cresol (4.0 g, 37 mmol) and succinic anhydride (3.4 g, 34 mmol) were combined in 1,1,2,2-tetrachloroethane (40 mL) and the mixture was heated to 60° C. Aluminum chloride (9.5 g, 71 mmol) was then added to the solution at a rate of 2 g/20 min. Once this was complete the reaction was heated to 135° C. for 30 min. After cooling, water and ether (30 mL of each) were added and the aqueous layer was extracted with 3×20 mL of ether. The combined organic fractions were dried and the remaining residue was purified by flash silica chromatography to yield 2.2 g (28.5%). 1H NMR δ 7.62 (s, 1H), 7.30 (d, 1H), 6.85 (d, 1 H), 3.32 (t, 2H), 2.35 (t, 2H), 2.22 (s, 1H).

reactant | p-Cresol | 37 mmol, 4.0 g | C1=CC(=CC=C1O)C | C7H8O
reactant | succinic anhydride | 34 mmol, 3.4 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | Aluminum chloride | 71 mmol, 9.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | water | O | H2O
solvent | 1,1,2,2-tetrachloroethane | 40 mL | ClC(C(Cl)Cl)Cl | C2H2Cl4
solvent | ether | CCOCC | C4H10O
product | 3-(5-methylbenzoyl)propionic acid | CC=1C=CC=C(C(=O)CCC(=O)O)C1 | C11H12O3
